2199-07-22 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-7-22**] 04:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-7-22**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 109 (97 - 125) bpm
   BP: 121/95(101) {103/63(72) - 129/95(101)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             292 mL
   PO:
             TF:
   IVF:
   292 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    640 mL
   Urine:
   640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Sedated and sleeping, no acute distress
   HEENT: Sclera anicteric, ecchymoses over mandible.
   Lungs: Mild crackles bilaterally, no wheezes, rhonchi
   CV: Regular, tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly percussed
   Ext: Warm, well perfused, 2+ pulses, very chapped skin on pedal aspect
   of feet.
   Neuro: Sedated as above. PERRL. DTR symmetric. Toes downgoing on
   Babinski.
   Labs / Radiology
   129 K/uL
   8.1 g/dL
   129 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   24.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2199-7-22**]  03:22 AM
   WBC
   4.5
   Hct
   24.9
   Plt
   129
   Cr
   0.7
   Glucose
   129
   Other labs: PT / PTT / INR:12.5/27.3/1.1, ALT / AST:27/57, Alk Phos / T
   Bili:39/0.6, Ca++:8.2 mg/dL, Mg++:1.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2199-7-22**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-07-23 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   fall, mandibular fxs
   24 Hour Events:
   - patient withdrawing in the morning, receiving hourly ativan
   - desatted around 9am, CXR showed new RLL infiltrate
   - started on vanco/cefepime/flagyl for HAP and aspiration coverage
   - sputum culture pending
   - around 2pm, had increasing aggitation, HR to 150s, worsening O2
   saturation
   - intuabted successfully
   - vitals stabalized with HRs in 100s, SBPs in 100s on fent/versed
   - OMFS (Dr. [**First Name (STitle) 3020**] does not want to take to OR for mandibular fractures
   until stabalized
   - overnight has low UO and hypotension, responded to IVF fluid boluses
   - hct trended down to 23, transfused 1 uPRBCs
   - had desats and 2 ABGs showed low PcO2, increased FiO2 to 60 and PEEP
   to 10; repeat CXR showed worsening PNA
   - turned down Tv from 600 to 500
   - pan cultured for hypotension
   - received second 1L bolus for mod UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-7-22**] 12:04 PM
   Vancomycin - [**2199-7-22**] 08:45 PM
   Metronidazole - [**2199-7-23**] 02:20 AM
   Cefipime - [**2199-7-23**] 03:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-7-22**] 07:50 PM
   Famotidine (Pepcid) - [**2199-7-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2199-7-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-23**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 74 (68 - 144) bpm
   BP: 88/65(70) {87/58(65) - 153/137(141)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,007 mL
                                                                  2,323 mL
   PO:
           TF:
   IVF:
                                                                  3,007 mL
                                                                  1,973 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,674 mL
                                                                    102 mL
   Urine:
                                                                  1,674 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                  2,221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/42/92.[**Numeric Identifier 491**]/22/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General: Sedated and sleeping, no acute distress
   HEENT: intubated and sedated, Sclera anicteric, ecchymoses over
   mandible.
   Lungs: Mild crackles bilaterally, rhonchorous throughout, greater on R
   than L
   CV: Regular, tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly percussed
   Ext: Warm, well perfused, 2+ pulses, very chapped skin on pedal aspect
   of feet.
   Neuro: Sedated as above. PERRL. DTR symmetric. Toes downgoing on
   Babinski.
   Labs / Radiology
   147 K/uL
   7.9 g/dL
   165 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   138 mEq/L
   23.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-7-22**]  03:22 AM
                             [**2199-7-22**]  02:35 PM
                             [**2199-7-22**]  05:25 PM
                             [**2199-7-23**]  01:07 AM
                             [**2199-7-23**]  02:14 AM
                             [**2199-7-23**]  02:42 AM
                             [**2199-7-23**]  03:28 AM
                             [**2199-7-23**]  03:33 AM
   WBC
   4.5
   5.4
   Hct
   24.9
   31.0
   23.6
   23.2
   Plt
   129
   147
   Cr
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   27
   25
   25
   25
   Glucose
   129
   181
   165
   Other labs: PT / PTT / INR:12.7/29.8/1.1, CK / CKMB /
   Troponin-T:74//<0.01, ALT / AST:20/39, Alk Phos / T Bili:40/0.5,
   Differential-Neuts:78.2 %, Lymph:14.8 %, Mono:5.1 %, Eos:1.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:155 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   56 y/o M with hx of HTN and etoh abuse presents from trauma [**Doctor First Name 91**]
   service after bilateral mandibular fxs on [**7-19**] with etoh withdrawl and
   now new PNA, likely aspiration.  Now with respiratory failure requiring
   intubation and labile hemodynamics.
   .
   # ETOH withdrawl
 last drink was Friday [**7-19**], the day of his fall.  No
   known history, but likley heavy etoh use.  Went into severe withdrawl
   on [**7-21**] with hallucinations, delerium, hypertenison and tachycardia.
   Responded initially to IV ativan, but then continued to be hypertensive
   and tachycardic to 160s prior to intubation.  Delerious enough that he
   likely had aspiration pneumonia, so needed to protect airway
   - continue sedation with fentanyl and versed; ativan no longer being
   used
   - monitor for hemodynamic signs of withdrawl
   - wean sedation as tolerated by patient
   - folate, MVI, thiamine
   .
   # Respiratory Distress
 not protecting airway due to aggiation and
   copious secretions, intubated [**7-22**].  Overnight vent settings needed to
   be titrated up for low O2 sats and low PcO2.  Responded well to
   increased PEEP and FiO2, decreased Vt as well.
   - continue to monitor, wean FiO2 as tolerated today
   - pneumonia treatment as below
   - consider early ARDS if patient respiratory status not improving
   .
   # Hypotension
 was moderately hypotensive overnight, although
   responsive to IVFs.  Likely due to total body fluid deficit as urine
   output was low, too.  Surprisingly, pt not tachycardic.  Also could
   have been related to oversedation in setting of new intubation.
   Overnight stabalized to SBPs around 100.
   - IVF boluses PRN
   - consider CVL placement
   - tx one [**Location **] for possible blood loss as cause
   - trended CEs, negative so far
   .
   # Pneumonia
 after having desats, CXR showed RLL pneumonia, likely
   aspiration.  Has been in hospital for >72 hrs and should be treated for
   HAP as well.  Was hypotensive overnight, although not tachycardic or
   febrile.  Pancultured, though.
   - vanco, cefepime, flagyl for treatment of HAP and aspiration
   - follow up cultures
   - intubation as above with goal to wean as tolerated
   .
   # Anemia
 likely due to blood loss in hematomas on chest and jaw,
   trending Hct
   - transfused one unit overnight
   - transfuse for hemodynamic instability of hct <21
   - abd CT to evaluate for bleed
   .
   # Mandibular Fx
 will need surgical repair at some point, will wait
   until other issues have stabalized.  Ortho team following along with
   plans for ORIF.
   - appreciate recs
   ICU Care
   Nutrition: NPO, no TFs prior to scan
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-7-22**] 06:52 PM
   18 Gauge - [**2199-7-22**] 07:58 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: no known family
   Code status: Full code
   Disposition: to trauma service this morning

2199-07-23 09:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated yest for agitation and hypoxemic respiratory failure.
   Post-intubation CXR w/ concern for RLL infiltrate. PEEP and FiO2
   titrated up for low PaO2. SBP dropped to the 80s but fluid responsive.
   Hct dropped to 24, transfused 1uPRBC. Vent settings changed to ARDSnet
   strategy (Vt dropped).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2199-7-22**] 12:04 PM
   Vancomycin - [**2199-7-22**] 08:45 PM
   Metronidazole - [**2199-7-23**] 02:20 AM
   Cefipime - [**2199-7-23**] 03:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-7-22**] 07:50 PM
   Famotidine (Pepcid) - [**2199-7-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2199-7-22**] 08:00 PM
   Other medications:
   thiamine, folate, Peridex, Vanco IV, Flagyl IV, Cefepime IV, Ativan prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-23**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 79 (68 - 144) bpm
   BP: 95/61(69) {87/58(65) - 153/137(141)} mmHg
   RR: 15 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,007 mL
                                                                  3,702 mL
   PO:
           TF:
   IVF:
                                                                  3,007 mL
                                                                  3,352 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,674 mL
                                                                    118 mL
   Urine:
                                                                  1,674 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                  3,584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/42/92.[**Numeric Identifier 491**]/22/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   147 K/uL
   165 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   138 mEq/L
   23.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-7-22**]  03:22 AM
                             [**2199-7-22**]  02:35 PM
                             [**2199-7-22**]  05:25 PM
                             [**2199-7-23**]  01:07 AM
                             [**2199-7-23**]  02:14 AM
                             [**2199-7-23**]  02:42 AM
                             [**2199-7-23**]  03:28 AM
                             [**2199-7-23**]  03:33 AM
   WBC
   4.5
   5.4
   Hct
   24.9
   31.0
   23.6
   23.2
   Plt
   129
   147
   Cr
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   27
   25
   25
   25
   Glucose
   129
   181
   165
   Other labs: PT / PTT / INR:12.7/29.8/1.1, CK / CKMB /
   Troponin-T:74//<0.01, ALT / AST:20/39, Alk Phos / T Bili:40/0.5,
   Differential-Neuts:78.2 %, Lymph:14.8 %, Mono:5.1 %, Eos:1.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:155 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Imaging: [**7-23**] CXR-
   Microbiology: [**7-22**] Pan culture- pending
   Assessment and Plan
   56 male with known history of EtOH abuse with bilateral mandibular
   fracture s/p fall onto face in the setting of EtOH intoxication,
   admitted  to MICU for presumed EtOH withdrawal, intubated for agitation
   and hypoxemic respiratory failure.
   Hypoxemic respiratory failure: intubated [**7-23**]. DDx includes aspiration
   pna +/- R-sided pleural effusion
   -wean FiO2 and PEEP as tolerated
   -poss PSV trial later today
   -ABX as below
   -head of bed up/ aspiration precautions
   -aggressive pulm toilet
   -follow CXR, ETT may need further adjustment
   Poss aspiration pna:
   -covering w/ vanco + cefepime + metronidazole, follow cx data
   -CT chest might be helpful to further define extent of an effusion/
   infiltrate
   EtOH withdrawal: Known h/o EtOH abuse. Last drink [**7-19**] am.
   - currently stable on Versed and fentanyl gtt
   - daily MVI, folate, thiamine
   - SW consult once extubated and more alert
   - serial lytes monitored
   Anemia: may be related to fall and fracture versus dilutional,
   underlying poor marrow fxn from EtOH
   -CT torso to evaluate for occult bleeding in the setting of prior
   trauma
   -trend Hct
   Bilateral Mandible fracture: Plan for OR pending stabilization. Would
   recommend deferring surgery for now given active EtOH withdrawal
   - Trauma and OMFS following
   Fall: likely related to EtOH but considering syncope
   -get EEG and TTE as per Neuro rec's once pt more stabilized
   -tele monitoring
   -fall precautions
   Disposition: per Trauma service to transfer to their service today
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held for CT torso today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2199-7-22**] 06:52 PM
   18 Gauge - [**2199-7-22**] 07:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill